US04028385
Further, 0.5 ml of quinoline and 20 g of 0.25% Pd-Lindlar catalyst was added in a solution of 1,280 g of the said dehydronerolidol in 2,000 ml of n-hexane and the mixture was hydrogenated at room temperature and normal pressure. After post-treatment, the reaction mixture was subjected to vacuum distillation to give 1,170 g of nerolidol having b.p. 105° - 110° C. (0.5 mmHg).

reactant | quinoline | 0.5 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | dehydronerolidol | 1,280 g | CC(=CCC/C(=C/CCC(C)(C#C)O)/C)C | C15H24O
catalyst | Pd Lindlar catalyst | 20 g | [Pd].[Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | n-hexane | 2,000 ml | CCCCCC | C6H14
product | nerolidol | 1,170 g | OC(C)(C=C)CCC=C(C)CCC=C(C)C | C15H26O
